US07119214B2
5) Synthesis of 7-chloro-1-bromomethyl-dibenzofuran: 1b
A mixture of 7-chloro-1-methyl-dibenzofuran (6.27 g, 29.1 mmol), N-bromosuccinimide (5.4 g, 30.3 mmole) and dibenzoyl peroxide (0.82 g, 3.4 mmole) in tetrachlorocarbon (100 mL) was heated at reflux for 3 hours, and then concentrated to about 50 mL. The resulting suspension was filtered, rinsed by CCl4. The solid was dissolved in CH2Cl2, washed by water, dried over Na2SO4, evaporated to give 6.16 g of beige solid.

reactant | 7-chloro-1-methyl-dibenzofuran | 29.1 mmol, 6.27 g | ClC1=CC2=C(C3=C(O2)C=CC=C3C)C=C1 | C13H9ClO
reactant | N-bromosuccinimide | 30.3 mmole, 5.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoyl peroxide | 3.4 mmole, 0.82 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | tetrachlorocarbon | 100 mL | ClC(Cl)(Cl)Cl | CCl4
product | 7-chloro-1-bromomethyl-dibenzofuran | 6.16 g | ClC1=CC2=C(C3=C(O2)C=CC=C3CBr)C=C1 | C13H8BrClO
